US07767675B2
Step 1. N′-(4-bromo-2-fluorobenzyl)-N,N-dimethylurea
N,N-Dimethylcarbamoyl chloride (101 μL, 1.1 mmol) was added to a solution of 1-(4-bromo-2-fluorophenyl)methanamine (0.204 g, 1.0 mmol) and triethylamine (148.1 μL, 1.10 mmol) in methylene chloride (5 mL) at 0° C., followed by 4-dimethylaminopyridine (0.012 g, 0.1 mmol). After 10 min, the ice-water bath was removed and the mixture was stirred overnight at RT. The mixture was washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue (253 mg, 91.9%) was directly used in next step without further purification. LCMS: (M+H)=276.9/274.9.

reactant | N,N-Dimethylcarbamoyl chloride | 1.1 mmol, 101 μL | CN(C(=O)Cl)C | C3H6ClNO
reactant | 1-(4-bromo-2-fluorophenyl)methanamine | 1.0 mmol, 0.204 g | BrC1=CC(=C(C=C1)CN)F | C7H7BrFN
reactant | triethylamine | 1.10 mmol, 148.1 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.1 mmol, 0.012 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N′-(4-bromo-2-fluorobenzyl)-N,N-dimethylurea | BrC1=CC(=C(CNC(N(C)C)=O)C=C1)F | C10H12BrFN2O
